US07285564B2
Step E—Preparation of 4-Isopropylamino-1-(4-methoxypyrid-3-ylmethyl)piperidine
A solution of 4-(N-tert-butoxycarbonyl-N-isopropylamino)-1-(4-methoxypyrid-3-ylmethyl)piperidine (17.0 g, 0.047 mol) in dioxane (93 mL) was cooled to 5° C. in ice/water bath. To this solution was added concentrated hydrochloric acid (40 mL) and the resulting mixture was stirred 5° C. for 15 minutes. The ice/water bath was then removed and the reaction mixture was stirred for 12 hours. The reaction mixture was then concentrated in vacuo to dryness, diluted with dichloromethane (100 mL) and 10 N aqueous sodium hydroxide was added slowly (CAUTION: very exothermic) until the pH was 14. The mixture was stirred for 0.5 hours and the organic layer was then separated and the aqueous layer was washed three times with dichloromethane (200 mL). The organic layers were then separated and dried over sodium sulfate (10 g). The sodium sulfate was removed by filtration and the organic layer was concentrated in vacuo to give 7.8 g of the title intermediate as a yellow oil (65% yield; 83% purity by GC).

reactant | 4-(N-tert-butoxycarbonyl-N-isopropylamino)-1-(4-methoxypyrid-3-ylmethyl)piperidine | 0.047 mol, 17.0 g | C(C)(C)(C)OC(=O)N(C(C)C)C1CCN(CC1)CC=1C=NC=CC1OC | C20H33N3O3
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | dioxane | 93 mL | O1CCOCC1 | C4H8O2
product | 4-Isopropylamino-1-(4-methoxypyrid-3-ylmethyl)piperidine | 7.8 g, 65% yield | C(C)(C)NC1CCN(CC1)CC=1C=NC=CC1OC | C15H25N3O
